US06191150B1
A solution of 20.6 g (78.2 mmol) of (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoic acid in 156 mL of toluene is heated to 80° C. as 75 mL (313 mmol) of dimethylformamide di-tert-butyl acetal is added. After 45 min at 80° C. an additional 10 mL of dimethylformamide di-tert-butyl acetal is added and the mixture is allowed to stir at 80° C. for 1 h. The mixture is cooled to 25° C. and ether is added. The mixture is washed with water, 5% aqueous sodium bicarbonate, saturated aqueous sodium chloride, and is dried over magnesium sulfate. Concentration in vacuo gives 15.49 g (62%) of tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoate as an oil.

reactant | (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoic acid | 78.2 mmol, 20.6 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)[C@@H](C=C)C | C14H17NO4
reactant | dimethylformamide di-tert-butyl acetal | 313 mmol, 75 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | dimethylformamide di-tert-butyl acetal | 10 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | ether | CCOCC | C4H10O
solvent | toluene | 156 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoate | 15.49 g, 62% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@@H](C=C)C | C18H25NO4
